US04321372
Thiourea (21.8 g., 0.286 mole), 4-chloro-3-hexanone (34.4 g., 0.26 mole) and 200 ml. of ethanol were combined and heated to reflux for 19 hours. The reaction mixture was cooled and stripped of solvent to yield the crude product as a white solid. White crystals of 4,5-diethylthiazole hydrochloride (31 g., m.p. 154°-156° C.) were obtained by recrystallization from a mixture of ethyl acetate and ethanol.

reactant | Thiourea | 0.286 mole, 21.8 g | NC(=S)N | CH4N2S
reactant | 4-chloro-3-hexanone | 0.26 mole, 34.4 g | ClC(C(CC)=O)CC | C6H11ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | 4,5-diethylthiazole hydrochloride | 31 g | Cl.C(C)C=1N=CSC1CC | InChI=1S/C7H11NS.ClH/c1-3-6-7(4-2)9-5-8-6;/h5H,3-4H2,1-2H3;1H
